US05905152
Preparation of 5-Fluoro-2-[4-[(2-phenyl-1H-imidazol-5-yl)methyl]-1-piperazinyl]pyrimidine
Mix 5-fluoro-2-piperazinyl-pyrimidine (900 g), 5-acetoxymethyl-2-phenyl-1H-imidazole (1.17 Kg, 1.1 equivalents), DMAP (N,N-dimethylaminopyridine, 30 g), toluene (7.2 L), ethanol (1.8 L) and triethylamine (1.095 L) at 20-25° C., and heat the mixture with stirring at 50-55° C. until the reaction is complete (typically about 20-25 hours). Then add water (3.75 L) and cool the resulting suspension to 0-50° C. Filter off the product, wash it with water (6×1.4 L) and cold toluene (3×700 ml), and dry it under vacuum at 50-55° C. to constant weight.

reactant | 5-fluoro-2-piperazinyl-pyrimidine | 900 g | FC=1C=NC(=NC1)N1CCNCC1 | C8H11FN4
reactant | 5-acetoxymethyl-2-phenyl-1H-imidazole | 1.17 Kg, 1.1 equivalents | C(C)(=O)OCC1=CN=C(N1)C1=CC=CC=C1 | C12H12N2O2
reactant | toluene | 7.2 L | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 1.8 L | C(C)O | C2H6O
catalyst | DMAP | 30 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 3.75 L | O | H2O
solvent | triethylamine | 1.095 L | C(C)N(CC)CC | C6H15N
product | 5-Fluoro-2-[4-[(2-phenyl-1H-imidazol-5-yl)methyl]-1-piperazinyl]pyrimidine | FC=1C=NC(=NC1)N1CCN(CC1)CC1=CN=C(N1)C1=CC=CC=C1 | C18H19FN6
